US05674906
Synthesis of (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-Fmoc-L-serineamide
(Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene (1.5 g, 4.76 mmols), 2.1 g (5.7 mmols) of Fmoc-L-Ser(Ac), 1.2 g (5.7 mmols) of DCC and 0.87 g (5.7 mmols) of HOBt.H2O were dissolved in 30 ml of N,N-dimethylformamide, and the mixture was reacted at room temperature for 5 hours. The reaction mixture was diluted with ethyl acetate, then filtered and concentrated. The product was purified through silica-gel column chromatography (mixture of ethyl acetate and hexane at a ratio by volume of 1:2) to produce 1.96 g of the final product in a yield of 61.8%.

reactant | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene | 4.76 mmols, 1.5 g | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C18H21NO4
reactant | Fmoc-L-Ser(Ac) | 5.7 mmols, 2.1 g | N([C@@H](COC(=O)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO6
reactant | DCC | 5.7 mmols, 1.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 5.7 mmols, 0.87 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | O | H2O
product | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene Fmoc-L-serineamide | 1.96 g, yield of 61.8% | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CO)C(=O)N | InChI=1S/C18H18N2O4.C18H21NO4/c19-17(22)16(9-21)20-18(23)24-10-15-13-7-3-1-5-11(13)12-6-2-4-8-14(12)15;1-20-15-8-7-12(9-14(15)19)5-6-13-10-16(21-2)18(23-4)17(11-13)22-3/h1-8,15-16,21H,9-10H2,(H2,19,22)(H,20,23);5-11H,19H2,1-4H3/b;6-5-/t16-;/m0./s1
